US08440689B2
6-((1R,2S)-2-Aminocyclohexylamino)-7-fluoro-4-(thiophen-2-yl)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one
In a 30 mL sealed cap glass vial, tert-butyl (1S,2R)-2-(4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate (300 mg, 0.546 mmol), 4,4,5,5-tetramethyl-2-(thiophen-2-yl)-1,3,2-dioxaborolane (172 mg, 0.820 mmol), and trans-dichloro-bis(triphenylphosphine)palladium-II (38.4 mg, 0.055 mmol) were dissolved in dioxane (5 mL). An aqueous solution of 2N Na2CO3 (0.5 mL) was added, the cap was sealed, and the mixture was allowed to react at 85° C. for 3 h. The reaction mixture was subsequently diluted with water (5 mL) and extracted into EtOAc (2×30 mL). The organic layer was dried over sodium sulfate and evaporated. The resulting residue was treated with TFA (4 mL) and heated at 80° C. for 1 h to remove the protecting groups. Next, TFA was evaporated from the reaction mixture. The product was reconstituted in DMSO (8 mL) and was then purified via preparative HPLC eluting with water (0.05% TFA) and ACN (15-45% gradient, 0.035% TFA). The pure fractions were combined and evaporated to a minimal volume. Saturated aq NaHCO3 (10 mL) was added and the mixture was extracted with EtOAc (3×25 mL). The organic layers were combined, dried over sodium sulfate, and evaporated to give the title compound as a pale yellow solid (83 mg, 44%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.16-1.80 (m, 8H), 3.18 (br s, 1H), 3.86-4.11 (m, 1H), 4.39 (s, 2H), 6.60 (d, J=6.57 Hz, 1H), 7.13 (dd, J=5.05, 3.79 Hz, 1H), 7.60 (dd, J=5.18, 1.14 Hz, 1H), 8.39 (s, 1H), 9.00 (dd, J=3.79, 1.01 Hz, 1H). [M+H] calc'd for C17H19FN4OS, 347. found, 347.

reactant | tert-butyl (1S,2R)-2-(4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | 0.546 mmol, 300 mg | ClC1=NC(=C(C2=C1C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F)N[C@H]2[C@H](CCCC2)NC(OC(C)(C)C)=O | C27H34ClFN4O5
reactant | 4,4,5,5-tetramethyl-2-(thiophen-2-yl)-1,3,2-dioxaborolane | 0.820 mmol, 172 mg | CC1(OB(OC1(C)C)C=1SC=CC1)C | C10H15BO2S
reactant | Na2CO3 | 2N, 0.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
product | 6-((1R,2S)-2-Aminocyclohexylamino)-7-fluoro-4-(thiophen-2-yl)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 83 mg, 44% | N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C=1SC=CC1)C(NC2)=O)F | C17H19FN4OS
